US07872014B2
To a solution of methyl 3-hydroxy-4-methoxy benzoate (2.0 g, 11 mmol) in DMF (25 mL) was added cesium carbonate (7.2 g, 22 mmol) and 1,1-dimethylethyl 4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate (3.2 g, 11 mmol). The mixture was heated to 70° C. and stirred for 2 h. After cooling to rt, water was added and the resulting aqueous mixture was extracted with ether followed by ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (70% hexanes, 30% ethyl acetate) to provide 3.54 g of 1,1-dimethylethyl 4-[({2-(methyloxy)-5-[(methyloxy)carbonyl]phenyl}oxy)methyl]piperidine-1-carboxylate (9.3 mmol, 85% yield). 1H NMR (400 MHz, CDCl3): δ7.69-7.66 (dd, 1H), 7.52 (d, 1H), 6.88 (d, 1H), 4.15 (br m, 2H), 3.92 (s, 3H), 3.91-3.88 (m, 2H), 3.90 (s, 3H), 2.76 (br m, 2H), 2.06 (m, 1H), 1.88 (br d, 2H), 1.47 (s, 9H), 1.31-1.25 (m, 2H); MS (EI) for C20H29NO6: 402 (MNa+).

reactant | methyl 3-hydroxy-4-methoxy benzoate | 11 mmol, 2.0 g | COC1=C(C=C(C=C1)C(=O)OC)O | C9H10O4
reactant | cesium carbonate | 22 mmol, 7.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,1-dimethylethyl 4-{[(methylsulfonyl)oxy]methyl}piperidine-1-carboxylate | 11 mmol, 3.2 g | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 4-[({2-(methyloxy)-5-[(methyloxy)carbonyl]phenyl}oxy)methyl]piperidine-1-carboxylate | 9.3 mmol, 3.54 g, 85% yield | COC1=C(C=C(C=C1)C(=O)OC)OCC1CCN(CC1)C(=O)OC(C)(C)C | C20H29NO6
